US07241798B2
{5-[(1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hex-3-ylmethyl]-3H-[1,2,3]triazol-4-ylmethyl}-dimethyl-amine
To the starting material as a mixture of diastereomers, Example 6 and Example 7, one being (1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hexane, (0.10 g, 0.25 mmol) in DME (1.0 mL) was added 5-dimethylaminomethyl-1H-[1,2,3]triazole-4-carbaldehyde (˜50% pure, 0.15 g, 0.45 mmol) mmol and the mixture stirred at room temperature for 1.5 hours. To the reaction flask was added sodium triacetoxyborohydride (0.10 g, 0.50 mmol) and stirring was continued for 64 hours. The reaction flask was placed in a 0° C. bath and to the reaction flask was added 1N HCl (2 mL) and the mixture stirred for 4 hours at room temperature. 1 N NaOH solution was added and then saturated sodium bicarbonate solution was added until the pH=8. The reaction mixture was extracted with methylene chloride, the organics washed with brine, dried over sodium sulfate, filtered, and concentrated to an oil. The crude product was purified by flash chromatography using elution with a gradient of 30% EtOAc/Hexanes to 100% EtOAc to give as the more polar diastereomer of the title compound. (0.034 g, 25% yield).).

reactant | (1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hexane | 0.25 mmol, 0.10 g | FC(C=1C=C(CO[C@@]23[C@@H](NCC3C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C20H17F6NO
reactant | 5-dimethylaminomethyl-1H-[1,2,3]triazole-4-carbaldehyde | 0.45 mmol, 0.15 g | CN(C)CC1=C(N=NN1)C=O | C6H10N4O
reactant | sodium triacetoxyborohydride | 0.50 mmol, 0.10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1N, 2 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DME | 1.0 mL | COCCOC | C4H10O2
product | {5-[(1S,2S)-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hex-3-ylmethyl]-3H-[1,2,3]triazol-4-ylmethyl}-dimethyl-amine | 25% yield | FC(C=1C=C(CO[C@@]23[C@@H](N(CC3C2)CC2=C(NN=N2)CN(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H27F6N5O
